US06716837B1
1-(4-Fluorophenyl)-6-(N-methyl-1,2,5,6-tetrahydropyridin-4-yl)-indole (compound 32, arylation example)
A mixture of 6-(1-Methyl-1,2,5,6-tetrahydropyridin-4-yl)-indole (20.1 mg, 0.0945 mmol), potassium carbonate (K2CO3; 52.3 mg, 0.3787 mmol), cuprous bromide (CuBr; 6.7 mg, 0.0473 mmol), a little copper powder and 1-fluoro4-iodobenzene (42.04 mg, 0.189 mmol) in 1 ml of N-methyl-4-piperidone (NMP) was heated at 170° C., under argon, overnight. After cooling, the mixture was diluted with dichloromethane and the organic layer washed with water 10 times before being passed through a silica gel column (eluting with 1% 2M ammonia/methanol in dichloromethane) to give the title product (15 mg, 55%).

reactant | 6-(1-Methyl-1,2,5,6-tetrahydropyridin-4-yl)-indole | 0.0945 mmol, 20.1 mg | CN1CC=C(CC1)C1=CC=C2C=CNC2=C1 | C14H16N2
reactant | potassium carbonate | 0.3787 mmol, 52.3 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-fluoro4-iodobenzene | 0.189 mmol, 42.04 mg | FC1=CC=C(C=C1)I | C6H4FI
solvent | N-methyl-4-piperidone | 1 ml | CN1CCC(CC1)=O | C6H11NO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper | [Cu] | Cu
product | 1-(4-Fluorophenyl)-6-(N-methyl-1,2,5,6-tetrahydropyridin-4-yl)-indole | 15 mg, 55% | FC1=CC=C(C=C1)N1C=CC2=CC=C(C=C12)C1=CCN(CC1)C | C20H19FN2
